US06583135B2
Preparation of tert-Butyl 8,9-Dichloro-6-(3-phenylpropyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate
Potassium hydride (45 mg, 1.1 mmol) was added to a solution of tert-butyl 8,9-dichloro-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.20 g, 0.56 mmol) in DMF (1.0 mL). After 15 min, 1-bromo-3-phenylpropane (0.13 mL, 0.86 mmol) was added. After 5 h, the reaction was quenched with saturated aqueous NH4Cl (10 mL) and extracted with CH2Cl2 (3×10 mL). The combined organic extracts were washed with brine, dried over Na2SO4, decanted, and concentrated. The crude product was purified by column chromatography (Biotage, 40S) with heptane/EtOAc (3:1) to give 0.21 g (78%) of a yellow solid: mp 119-124° C.; IR (diffuse reflectance) 2980, 2973, 2941, 2932, 1686, 1478, 1462, 1417, 1365, 1247, 1178, 1160, 1112, 855, 699 cm−1; MS (EI) m/z 472 (M+), 416, 227, 226, 224, 211, 188, 153, 115, 90, 56; Anal. Calcd for C26H30Cl2N2O2: C, 65.96; H, 6.39; N, 5.92; found: C, 66.01; H, 6.47; N, 5.82.

reactant | Potassium hydride | 1.1 mmol, 45 mg | [H-].[K+]
reactant | tert-butyl 8,9-dichloro-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.56 mmol, 0.20 g | ClC=1C(=CC=2C3=C(NC2C1)CCN(CC3)C(=O)OC(C)(C)C)Cl | C17H20Cl2N2O2
reactant | 1-bromo-3-phenylpropane | 0.86 mmol, 0.13 mL | BrCCCC1=CC=CC=C1 | C9H11Br
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 8,9-Dichloro-6-(3-phenylpropyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.21 g, 78% | ClC=1C(=CC=2C3=C(N(C2C1)CCCC1=CC=CC=C1)CCN(CC3)C(=O)OC(C)(C)C)Cl | C26H30Cl2N2O2
